US06951865B2
1-(1-Ethylpropyl)-7-iodo-4-mesityl-2,3-dihydro-1H-pyrrolo[3,2-c]quinoline
A solution of 4-chloro-3-(2-chloroethyl)-7-iodo-2-methylquinoline (300 mg, 0.82 mmol) in 3-aminopentane (10.0 mL) was stirred at 200° C. for eight hours in a sealed tube. The mixture was evaporated, and the residue was purified by silica gel column chromatography (10-70% ethyl acetate/hexane), to give the title compound (39 mg) as a pale yellow oil.

reactant | 4-chloro-3-(2-chloroethyl)-7-iodo-2-methylquinoline | 0.82 mmol, 300 mg | ClC1=C(C(=NC2=CC(=CC=C12)I)C)CCCl | C12H10Cl2IN
reactant | 3-aminopentane | 10.0 mL | NC(CC)CC | C5H13N
product | 1-(1-Ethylpropyl)-7-iodo-4-mesityl-2,3-dihydro-1H-pyrrolo[3,2-c]quinoline | 39 mg | C(C)C(CC)N1CCC=2C(=NC=3C=C(C=CC3C21)I)C2=C(C=C(C=C2C)C)C | C25H29IN2
